US08975415B2
To a solution of methyl 1-(1-hydroxyethyl)-3,3-dimethoxycyclobutanecarboxylate (3.28 g, 15.03 mmol) and pyridine (2.4 mL, 29.83 mmol) in CH2Cl2 (65 mL) was added trifluoromethanesulfonic anhydride (3.0 mL, 17.86 mmol) at −78° C. The mixture was stirred for 10 minutes and then warmed to 0° C. After stirring for 15 minutes at 0° C., DBU (9.0 mL, 60.18 mmol) was added to the reaction mixture and the resulting mixture was stirred for 1 hour at room temperature. The mixture was partially evaporated under reduced pressure and filtrated through the pad of silica gel and washed with CH2Cl2. The filtrate was washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered, and evaporated. The residue was diluted with hexane/EtOAc=4:1 and added small amount of CHCl3 and filtrated through the pad of silica gel to give methyl 3,3-dimethoxy-1-vinylcyclobutanecarboxylate (2.21 g).

reactant | methyl 1-(1-hydroxyethyl)-3,3-dimethoxycyclobutanecarboxylate | 15.03 mmol, 3.28 g | OC(C)C1(CC(C1)(OC)OC)C(=O)OC | C10H18O5
reactant | pyridine | 29.83 mmol, 2.4 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 17.86 mmol, 3.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | DBU | 60.18 mmol, 9.0 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
product | methyl 3,3-dimethoxy-1-vinylcyclobutanecarboxylate | 2.21 g | COC1(CC(C1)(C(=O)OC)C=C)OC | C10H16O4
